US06436929B1
1-(2-Amino-5-bromo-phenyl)cyclohexanol was prepared, according to the procedure of Example 1 using 2-amino-5-bromobenzoic acid and the Grignard reagent prepared from 1,5-dibromopentane, as a clear oil: 1H-NMR (DMSO-d6) δ7.07 (d, 1H, J=2.3 Hz), 7.03 (dd, 1H, J=8.4, 2.4 Hz), 6.55 (d, 1H, J=8.6 Hz), 5.49 (s, 2H, D2O exchangeable), 5.00 (s, 1H, D2O exchangeable), 2.01 (d, 2H, J=1.8 Hz), 1.66-1.77 (m, 2H), 1.44-1.61 (m, 4H), 1.16-1.34 (m, 2H); MS (ESI) m/z 270/272 ([M+H]+, 98%/100%).

reactant | 2-amino-5-bromobenzoic acid | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
product | 1-(2-Amino-5-bromo-phenyl)cyclohexanol | NC1=C(C=C(C=C1)Br)C1(CCCCC1)O | C12H16BrNO
